* Auto-generated SPICE netlist (NO TEXT OCR USED)

Q1 n11 n8 n7 QPNPdefault
Q2 n13 n12 n4 QPNPdefault
R1 n2 n4 1k
Q3 0 n10 n12 QPNPdefault
D1 n6 n3 Ddefault
Q4 n5 n14 0 QNPNdefault
R2 n4 n7 1k
Q5 n9 n11 0 QNPNdefault
Q6 n14 n9 n5 QPNPdefault
Q7 n1 n3 n5 QNPNdefault
V1 n5 0 DC 15
D2 n9 n6 Ddefault
R3 n7 n5 1k
Q8 n11 n15 0 QNPNdefault
R4 n1 n2 1k
R5 n8 0 1k
V2 n1 0 DC 15
V3 n7 0 DC 15
R6 n10 0 1k
V4 n2 0 DC 15
Q9 n13 n15 0 QNPNdefault
V5 n10 0 DC 15
.model Ddefault D
.model QNPNdefault NPN
.model QPNPdefault PNP

.op
.end
