* Auto-generated SPICE netlist (NO TEXT OCR USED)

D1 n6 n3 Ddefault
Q1 0 n13 n8 QPNPdefault
Q2 n1 n3 n5 QNPNdefault
D2 n9 n6 Ddefault
Q3 n12 n8 n4 QPNPdefault
Q4 n14 n9 n5 QPNPdefault
Q5 n5 n14 0 QNPNdefault
Q6 n11 n10 n7 QPNPdefault
Q7 n9 n11 0 QNPNdefault
Q8 n12 n15 0 QNPNdefault
R1 n4 n7 1k
Q9 n11 n15 0 QNPNdefault
V1 n7 0 DC 15
R2 n2 n4 1k
V2 n2 0 DC 15
R3 n1 n2 1k
R4 n10 0 1k
R5 n7 n5 1k
V3 n1 0 DC 15
V4 n13 0 DC 15
R6 n13 0 1k
V5 n5 0 DC 15
.model Ddefault D
.model QNPNdefault NPN
.model QPNPdefault PNP

.op
.end
