* Auto-generated SPICE netlist (NO TEXT OCR USED)

E1 n17 0 n18 n16 100k
E2 n3 0 n9 n2 100k
E3 n1 0 n7 n1 100k
E4 n5 0 n4 n8 100k
E5 n10 0 0 n13 100k
E6 n12 0 n11 n14 100k
L1 n16 n17 1m
R1 n12 n6 1k
R2 n5 n6 1k
R3 n17 n6 1k
L2 n13 n10 1m
R4 n10 n9 1k
R5 n3 n4 1k
C1 n3 n16 1u
R6 n3 n11 1k
R7 n9 n15 1k
V1 n1 0 DC 15
R8 n1 n2 1k
L3 n2 n3 1m
L4 n4 n5 1m
V2 n13 0 DC 15
C2 n11 n12 1u

.op
.end
